US05185452
A solution of 2,2-dimethylchroman [obtained by an analogous procedure to that described in Chem. Ber., 1904, 37, 494, for the preparation of 2,2-dimethyl-2H-chromene, but using dihydrocoumarin as starting material in place of coumarin] (50 g, 308 mM) in dichloromethane (250 ml) was added dropwise to a solution of chlorosulphonic acid (40 ml, 602 mM) and phosphorus pentachloride (50 g, 204 mM) in dichloromethane (250 ml), cooled to 5° C. under an atmosphere of argon. The colour of the solution changed from pale yellow to orange. When the addition was complete, the mixture was slowly allowed to attain ambient temperature and stirred for 2 hours. The reaction mixture was poured onto ice-water and the organic phase was separated. The aqueous layer was extracted with dichloromethane (3×20 ml), and the combined organic extracts were washed with water and dried (MgSO4). The solvent was removed by evaporation to give 2,2-dimethylchroman-6-sulphonyl chloride as a pale purple solid (42.6 g, 53% yield), m.p. 89°-92° C. (after recrystallisation from hexane).

reactant | 2,2-dimethyl-2H-chromene | CC1(OC2=CC=CC=C2C=C1)C | C11H12O
reactant | dihydrocoumarin | C=1C=CC2=C(C1)CCC(=O)O2 | C9H8O2
reactant | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
reactant | chlorosulphonic acid | 602 mM, 40 ml | ClS(=O)(=O)O | ClHO3S
reactant | phosphorus pentachloride | 204 mM, 50 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2,2-dimethylchroman-6-sulphonyl chloride | 42.6 g, 53% yield | CC1(OC2=CC=C(C=C2CC1)S(=O)(=O)Cl)C | C11H13ClO3S
